US07550467B2
To a solution of 6-bromo-3-nitro-chroman (2.18 g, 8.4 mmol) in glacial acetic acid (150 mL) was added zinc dust (11 g, 170 mmol). The mixture was heated to 100° C. for 20 min. The zinc dust was filtered off and washed with CH2Cl2. The solvent was evaporated in vacuo and the residue partitioned between 1N aqueous HCl (40 mL) and CH2Cl2 (40 mL). The aqueous phase was separated and its pH was adjusted to 11 with 2N NaOH, which was then extracted with CH2Cl2 (50 mL×3). The combined organic phase was dried (Na2SO4) and concentrated in vacuo to give 1.2 g (63%) of 6-bromo-chroman-3-ylamine as a brown solid. 1H NMR (300 MHz, CDCl3): δ 7.13 (m, 2H), 6.63 (d, J=7.8Hz, 1H), 4.05 (d, J=10.2Hz, 1H), 3.74 (dd, J=1.5, 6.6 Hz, 1H), 3.31 (br.s, 1H), 2.94 (dd, J=16.2, 6.9 Hz, 1H), 1.35 (br.s, 2H).

reactant | 6-bromo-3-nitro-chroman | 8.4 mmol, 2.18 g | BrC=1C=C2CC(COC2=CC1)[N+](=O)[O-] | C9H8BrNO3
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 170 mmol, 11 g | [Zn] | Zn
product | 6-bromo-chroman-3-ylamine | 1.2 g, 63% | BrC=1C=C2CC(COC2=CC1)N | C9H10BrNO
